US07816395B2
d) 1,1-Dimethylethyl (3S)-4-azido-3-[(3-chloro-4-cyanophenyl)amino]butanoate
1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{[(4-methylphenyl)sulfonyl]oxy}butanoate (35.0 g, 76 mmol) and sodium azide (9.83 g, 150 mmol) in DMF (150 mL) were stirred at 65° C. for 2.25 h. After cooling, the reaction was diluted with cold H2O (500 mL) and extracted with Et2O (3×). The combined organic extracts were washed with H2O (3×), treated with charcoal and dried (MgSO4), filtered and the solvent evaporated. The residue was dissolved in a small amount of Et2O and filtered through a short plug of silica gel. Evaporation of the filtrate afforded the titled compound (26.9 g, >100%) as an oil. 1H-NMR (CDCl3) δ: 1.46 (9H, s), 2.58 (2H, m), 3.56 (2H, d, J=5.2 Hz), 3.99 (1H, m), 6.54 (1H, d, J=8 Hz), 6.99 (1H, s), 7.43 (1H, d, J=8.8 Hz). LC-MS (ES) m/e 336.3 (M+H)+.

reactant | 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{[(4-methylphenyl)sulfonyl]oxy}butanoate | 76 mmol, 35.0 g | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C22H25ClN2O5S
reactant | sodium azide | 150 mmol, 9.83 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | H2O | 500 mL | O | H2O
product | 1,1-Dimethylethyl (3S)-4-azido-3-[(3-chloro-4-cyanophenyl)amino]butanoate | 26.9 g, >100% | N(=[N+]=[N-])C[C@H](CC(=O)OC(C)(C)C)NC1=CC(=C(C=C1)C#N)Cl | C15H18ClN5O2
